US20010018430A1
3,4,5-Trimethoxybenzenesulfonyl chloride was synthesized from 3,4,5-trimethoxyaniline according to the procedure described in G. Pifferi and R. Monguzzi, Journal of Pharmaceutical Sciences, 1973, 62, 1393. In this procedure the aniline was dissolved in concentrated hydrochloric acid and to the resulting mixture was added a solution of aqueous sodium nitrite at 0C, the resulting mixture containing the desired diazonium salt was added at 5° C. to a saturated solution of sulfur dioxide in glacial acetic acid containing substoichiometric amount of cuprous chloride. The mixture was stirred at ambient temperature for 3 h, poured into cold water, and the product extracted with dichloromethane. The solvent was evaporated and the solid residue was recrystallized from hexanes.

reactant | 3,4,5-trimethoxyaniline | COC=1C=C(N)C=C(C1OC)OC | C9H13NO3
reactant | sodium nitrite | N(=O)[O-].[Na+]
reactant | sulfur dioxide | S(=O)=O | O2S
reactant | water | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | aniline | NC1=CC=CC=C1 | C6H7N
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3,4,5-Trimethoxybenzenesulfonyl chloride | COC=1C=C(C=C(C1OC)OC)S(=O)(=O)Cl | C9H11ClO5S
